US07217723B2
7-Oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid ethyl amide
To a solution of 7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid (the compound of Preparation Example 4) (98 mg) in tetrahydrofuran (2 mL) was added 0.11 mL of triethylamine (0.11 mL) and ethyl chlorocarbonate (58 μL) on an ice bath. After stirring for 30 minutes, a solution (1 mL) of 2M ethylamine-tetrahydrofuran was further added dropwise and the solution was stirred for 20 minutes. After the solution was extracted with water, then was extracted with ethyl acetate, and washed with saturated sodium chloride water. After the organic layer was dried with anhydrous sodium sulfate, the solvent was removed by evaporation and the title compound (100 mg) was obtained as a reddish-brown solid.

reactant | 7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid | O=C1CCCC2=C1SC=C2C(=O)O | C9H8O3S
reactant | triethylamine | 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 58 μL | C(OCC)(=O)Cl | C3H5ClO2
reactant | ethylamine tetrahydrofuran | 2M, 1 mL | C(C)N.O1CCCC1
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 7-Oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid ethyl amide | 100 mg | C(C)NC(=O)C=1C2=C(SC1)C(CCC2)=O | C11H13NO2S
